US08067457B2
To a solution of N-(2-oxo-2-{[(3R)-1-piperidin-4-ylpyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide (33 mg, 0.083 mmol) in DMSO (3 mL) was added K2CO3 (17.2 mg, 0.124 mmol) followed by 4-fluorobenzonitrile (10 mg, 0.83 mmol). The mixture was heated to 120° C. for 16 hours. The crude mixture was subjected to column chromatography (15% MeOH, 1% NH4OH in EtOAc) to afford N-[2-({(3R)-1-[1-(4-cyanophenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (0.031 g, 75%) as a white solid. 1H-NMR (CDCl3) δ: 1.48-1.70 (m, 3H), 1.82-1.96 (m, 2H), 2.20-2.42 (m, 3H), 2.58-2.76 (m, 2H), 2.84-3.00 (m, 3H), 3.70-3.82 (m, 2H), 4.08 (d, J=4.8 Hz, 2H), 4.38-4.51 (m, 1H), 6.45 (d, J=7.5 Hz, 1H), 6.82 (d, J=9.0 Hz, 2H), 7.18-7.27 (m, 1H), 7.44 (d, J=8.7 Hz, 2H), 7.54 (t, J=7.8 Hz, 1H), 7.74 (d, J=8.7 Hz, 1H), 7.96 (d, J=7.8 Hz, 1H), 8.07 (s, 1H). MS m/z: 500 (M+1).

reactant | N-(2-oxo-2-{[(3R)-1-piperidin-4-ylpyrrolidin-3-yl]amino}ethyl)-3-(trifluoromethyl)benzamide | 0.083 mmol, 33 mg | O=C(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)N[C@H]1CN(CC1)C1CCNCC1 | C19H25F3N4O2
reactant | K2CO3 | 0.124 mmol, 17.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzonitrile | 0.83 mmol, 10 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | NH4OH | [NH4+].[OH-]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | N-[2-({(3R)-1-[1-(4-cyanophenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.031 g, 75% | C(#N)C1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C26H28F3N5O2
